US07893056B2
[(2R)-3-(2-{5-Chloro-3-[7-(dimethylamino)-5-azaspiro[2.4]hept-5-yl]-2-fluorophenyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl][(phenylmethyl)oxy]formamide (300 mg, 0.51 mmol) was dissolved in 5 mL of MeOH. 5% Rhodium on Alumina (240 mg) was added, and the contents were stirred under a hydrogen balloon overnight. The contents were then filtered to remove the catalyst, and the filtrate was concentrated in vacuo. The resulting crude product was purified via reverse phase HPLC to provide [(2R)-3-(2-{5-chloro-3-[7-(dimethylamino)-5-azaspiro[2.4]hept-5-yl]-2-fluorophenyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl]hydroxyformamide (single unknown diastereomer) (142 mg, 56%). LCMS: (M+H)+: 498.3.

reactant | [(2R)-3-(2-{5-Chloro-3-[7-(dimethylamino)-5-azaspiro[2.4]hept-5-yl]-2-fluorophenyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl][(phenylmethyl)oxy]formamide | 0.51 mmol, 300 mg | ClC=1C=C(C(=C(C1)NNC([C@@H](CN(C=O)OCC1=CC=CC=C1)CC1CCCC1)=O)F)N1CC2(CC2)C(C1)N(C)C | C31H41ClFN5O3
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Rhodium on Alumina | 240 mg | [Rh] | Rh
product | [(2R)-3-(2-{5-chloro-3-[7-(dimethylamino)-5-azaspiro[2.4]hept-5-yl]-2-fluorophenyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl]hydroxyformamide | 142 mg, 56% | ClC=1C=C(C(=C(C1)NNC([C@@H](CN(C=O)O)CC1CCCC1)=O)F)N1CC2(CC2)C(C1)N(C)C | C24H35ClFN5O3
